US07488831B2
Synthesis of 5-hydroxy-3-trifluoromethylpyrazole hydrochloride
Ethyl 4,4,4-trifluoroacetoacetate (18.4 g (0.1 mol)) was dissolved in 20 mL of ethanol. The resulting solution was cooled to 10° C. or less with stirring, and 6.0 g (0.12 mol) of hydrazine was added dropwise thereto over 0.5 hours. After the dropwise addition, the solution was stirred at room temperature for 1 hour and subsequently at the reflux temperature for 5 hours. When the reaction was completed, the reaction solution was cooled to room temperature, and 100 mL of water and 20.6 g (0.2 mol) of 35% hydrochloric acid were added thereto. The produced crystal was collected by filtration, washed twice with 10 mL of water and dried by a hot air drier to obtain 12.8 g (yield: 68.1%) of the title compound as a white crystal.

reactant | Ethyl 4,4,4-trifluoroacetoacetate | 0.1 mol, 18.4 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | hydrazine | 0.12 mol, 6.0 g | NN | H4N2
reactant | water | 100 mL | O | H2O
reactant | hydrochloric acid | 0.2 mol, 20.6 g | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-hydroxy-3-trifluoromethylpyrazole hydrochloride | 12.8 g, yield: 68.1% | Cl.OC1=CC(=NN1)C(F)(F)F | InChI=1S/C4H3F3N2O.ClH/c5-4(6,7)2-1-3(10)9-8-2;/h1H,(H2,8,9,10);1H
